US04966909
4-Benzyl-5-(4-chlorophenyl)2,4-dihydro-3H-1,2,4-triazol-3-one
A stirred mixture of 1-(4-chlorobenzoyl)-4-benzylsemicarbazide (16.15 g, 5.317×10-2 mole) and 1 molar aqueous NaOH (64 ml, 6.4×10-2 mole) was heated to reflux. After refluxing ca. 22 hrs., the reaction was allowed to cool slightly before being neutralized by the addition of concentrated aqueous HCl (5.5 ml, 6.6×10-2 mole). A colorless solid formed and after the mixture had cooled to room temperature this was collected by filtration. Crystallization from isopropanol afforded colorless needles: 12.76 g (84%), mp. 208°-210° C.

reactant | 1-(4-chlorobenzoyl)-4-benzylsemicarbazide | 5.317×10-2 mole, 16.15 g | ClC1=CC=C(C(=O)NNC(=O)NCC2=CC=CC=C2)C=C1 | C15H14ClN3O2
reactant | NaOH | 6.4×10-2 mole, 1 molar, 64 ml | [OH-].[Na+]
reactant | HCl | 6.6×10-2 mole, 5.5 ml | Cl | ClH
product | 4-Benzyl-5-(4-chlorophenyl)2,4-dihydro-3H-1,2,4-triazol-3-one | C(C1=CC=CC=C1)N1C(NN=C1C1=CC=C(C=C1)Cl)=O | C15H12ClN3O
